US06613942B1
The 1,4-Naphthalenedicarboxylic acid (25 g, 116 mmol) was dripped into a mixture of Lithium Aluminum Hydride (15 g, 395 mmol) in 600 mL of anhydrous THF and refluxed for two days. The mixture was cooled in an ice bath and excess LAH was decomposed by the slow addition of methanol followed by ice chips. THF was removed under vacuum and the residue was acidified with 1N HCl. The product was extracted with ethyl acetate (3×), washed with aqueous sodium bicarbonate (3×), water, brine, and dried over magnesium sulfate. 1,4-Bishydroxymethylnaphthalene (70%) was obtained as a solid after evaporation of the solvent and can be used in the subsequent oxidation step without further purification. A portion of the material was purified by column chromatography using hexane/ethyl acetate (80/20 to 75/25) for characterization purposes.

reactant | 1,4-Naphthalenedicarboxylic acid | 116 mmol, 25 g | C1(=CC=C(C2=CC=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | Lithium Aluminum Hydride | 395 mmol, 15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methanol | CO | CH4O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 1,4-Bishydroxymethylnaphthalene | 70% | OCC1=CC=C(C2=CC=CC=C12)CO | C12H12O2
